US08372837B2
To a stirring solution of methyl 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyano-3-fluorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylate (27.2 mg, 0.1 mmol) in THF/MeOH (1:1) (3 mL) at room temperature under argon was added NaBH4 (18.9 mg, 0.5 mmol) at 0° C. in an ice bath under argon carefully. The reaction mixture was allowed to warm to room temperature gradually and stirred overnight. EtOAc (20 mL) and water (20 mL) were added to the reaction mixture. Layers were separated. Organic layer were washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was dissolved in a small amount of DCM (˜2 ml) and loaded onto a 40 g ISCO silica gel column which was eluted with a 20 min gradient from 20% to 100% EtOAc/Hexanes. 37 mg (82%) of tert-butyl 4-(1-(4-cyano-3-fluorophenyl)-3-(hydroxymethyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.39-1.53 (m, 9H) 1.68-1.88 (m, 2H) 1.88-2.09 (m, 2H) 2.51 (t, J=5.93 Hz, 1H) 3.20-3.49 (m, 2H) 3.54-3.76 (m, 2H) 4.43-4.63 (m, 1H) 4.69 (d, J=5.71 Hz, 2H) 6.23 (s, 1H) 7.53-7.85 (m, 3H). MS (ESI) 389 (M+H-tBu).

reactant | methyl 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyano-3-fluorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.1 mmol, 27.2 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=NN(C(C1)=O)C1=CC(=C(C=C1)C#N)F)C(=O)OC | C23H25FN4O6
reactant | NaBH4 | 0.5 mmol, 18.9 mg | [BH4-].[Na+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
reactant | water | 20 mL | O | H2O
solvent | THF MeOH | 3 mL | C1CCOC1.CO
product | tert-butyl 4-(1-(4-cyano-3-fluorophenyl)-3-(hydroxymethyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 37 mg, 82% | C(#N)C1=C(C=C(C=C1)N1N=C(C(=CC1=O)OC1CCN(CC1)C(=O)OC(C)(C)C)CO)F | C22H25FN4O5
